US07910760B2
Synthesis of 4,5-bis(chlorodimethylsilyl)-2,7-di(tert-butyl)-9,9-dimethylxanthene (1)
The reaction outlined in the reaction scheme below is as follows: Et2O (125 mL) and 4,5-dibromo-2,7-di(tert-butyl)-9,9-dimethylxanthene (9.54 g, 19.9 mmol) were combined and cooled to −65° C. A hexane solution of BuLi (19.2 mL, 47.7 mmol) was added dropwise over 5 min and the colorless suspension was allowed to warm to −30° C. over a period of 45 min during which time the starting material dissolved (at about −40° C.). After 15 min at −30° C. the solution was cooled to −80° C. and cold SiMe2Cl2 (20.5 g, 159 mmol) was added in one portion.

reactant | Et2O | 125 mL | CCOCC | C4H10O
reactant | 4,5-dibromo-2,7-di(tert-butyl)-9,9-dimethylxanthene | 19.9 mmol, 9.54 g | BrC1=CC(=CC=2C(C3=CC(=CC(=C3OC12)Br)C(C)(C)C)(C)C)C(C)(C)C | C23H28Br2O
reactant | BuLi | 47.7 mmol, 19.2 mL | [Li]CCCC
reactant | SiMe2Cl2 | 159 mmol, 20.5 g | [Si](C)(C)(Cl)Cl | C2H6Cl2Si
solvent | hexane | CCCCCC | C6H14
product | 4,5-bis(chlorodimethylsilyl)-2,7-di(tert-butyl)-9,9-dimethylxanthene | Cl[Si](C1=CC(=CC=2C(C3=CC(=CC(=C3OC12)[Si](C)(C)Cl)C(C)(C)C)(C)C)C(C)(C)C)(C)C | C27H40Cl2OSi2
